US07271193B2
(+)-trans-2-(2-Chloro-phenyl)-8-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-5,7-dimethoxy-chromen-4-one. (Compound No. 11)
Compound(5) was converted into (−)-trans-1-[2-Hydroxy-3-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-4,6-dimethoxyphenyl]-1-ethanone(compound(10) using the procedures described in examples 6 & 7. Compound(10) (0.75 g, 2.4 mmol), was reacted with methyl 2-chlorobenzoate (1.36 g, 7.9 mmol) in dry DMF (15 mL) in the presence of NaH (50%, 0.582 g, 12.9 mmol), using the procedure described in example 8 to get the title compound(11).

reactant | (−)-trans-1-[2-Hydroxy-3-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-4,6-dimethoxyphenyl]-1-ethanone | OC1=C(C(=CC(=C1[C@H]1[C@@H](N(CC1)C)CO)OC)OC)C(C)=O | C16H23NO5
reactant | methyl 2-chlorobenzoate | 7.9 mmol, 1.36 g | ClC1=C(C(=O)OC)C=CC=C1 | C8H7ClO2
reactant | NaH | 12.9 mmol, 0.582 g | [H-].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (+)-trans-2-(2-Chloro-phenyl)-8-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-5,7-dimethoxy-chromen-4-one | ClC1=C(C=CC=C1)C=1OC2=C(C(=CC(=C2C(C1)=O)OC)OC)[C@H]1[C@@H](N(CC1)C)CO | C23H24ClNO5
